US04916229
2-Cyclopropylamino-5-fluoro-6-hydroxynicotinic acid (2-(cyclopropylamino)-5-fluoro-6-hydroxy-3-pyridinecarboxylic acid)
To a solution of 95% ethanol (20 ml) and 2N NaOH/H2O (40 ml) was added 2.65 g of ethyl 2-cyclopropylamino-5-fluoro-6-hydroxynicotinate. The inital suspension was refluxed for a total of six hours, then cooled, and evaporated to a solid. The solid was dissolved in 30 ml of H2O and acidified to pH=1 with 2N HCl solution. The solid formed upon acidification was collected by filtration and washed with H2O to give the crude acid product. This product was triturated with hot 95% ethanol, filtered, and dried to give 1.65 g of a beige colored solid, 2-cyclopropyl-5-amino-6-hydroxynicotinic acid.

reactant | NaOH H2O | 2N, 40 ml | [OH-].[Na+].O
reactant | ethyl 2-cyclopropylamino-5-fluoro-6-hydroxynicotinate | 2.65 g | C1(CC1)NC1=C(C(=O)OCC)C=C(C(=N1)O)F | C11H13FN2O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Cyclopropylamino-5-fluoro-6-hydroxynicotinic acid | 1.65 g | C1(CC1)NC1=C(C(=O)O)C=C(C(=N1)O)F | C9H9FN2O3
